US07655733B2
5.1 mol of propylene carbonate were provided as an initial charge at 23° C. under a nitrogen atmosphere. 5 mol of diethanolamine were added over 30 to 120 minutes with stirring, and the temperature of the reaction mixture rose. On completion of the addition the mixture was heated to 120° C. in the course of 10 to 120 minutes and left to stir at 120° C. for 2 hours. Then a 10 to 20 mbar vacuum was applied, the temperature was raised from 120° C. to 160° C. and propylene glycol was distilled off. The N-(2-hydroxyethyl)oxazolidin-2-one obtained almost quantitatively as undistilled bottom product comprised 96 to 98% by weight of product of value and had a Hazen color number in the range from 0 to 15.

reactant | propylene carbonate | 5.1 mol | C1(OCC(C)O1)=O | C4H6O3
reactant | diethanolamine | 5 mol | N(CCO)CCO | C4H11NO2
product | N-(2-hydroxyethyl)oxazolidin-2-one | OCCN1C(OCC1)=O | C5H9NO3
